US07691866B2
Ethyl chloroformate (1.2 eq) was added to 2-(1,3-dioxolan-2-yl)-4-methoxyphenylamine (1eq) and triethyl amine (1.2 eq) in THF at 0° C. The reaction was completed instantaneously. The mixture was concentrated and partitioned between ethyl acetate and water. The organic layer was washed with brine and dried and concentrated to give N-(2-(1,3-dioxolan-2-yl)-4-methoxyphenyl)ethoxycarboxamide as a yellow solid in quantitative yield.

reactant | Ethyl chloroformate | 1.2 eq | ClC(=O)OCC | C3H5ClO2
reactant | 2-(1,3-dioxolan-2-yl)-4-methoxyphenylamine | 1eq | O1C(OCC1)C1=C(C=CC(=C1)OC)N | C10H13NO3
reactant | triethyl amine | 1.2 eq | C(C)N(CC)CC | C6H15N
reactant | THF | C1CCOC1 | C4H8O
product | N-(2-(1,3-dioxolan-2-yl)-4-methoxyphenyl)ethoxycarboxamide | quantitative yield | O1C(OCC1)C1=C(C=CC(=C1)OC)CCONC=O | C13H17NO5
